US07786115B2
To a solution of 3-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide (385 mg) in methanol (8 ml) and methylene chloride (19 ml) under an atmosphere of argon was added NaBH4 (48 mg) portionwise and the reaction stirred at room temperature for 17 hours. Concentrated hydrochloric acid (0.1 ml) was added and the reaction stirred for a further 30 minutes. The reaction mixture was concentrated and the residue resuspended in ethyl acetate, washed 1N NaOH, water, brine, dried (magnesium sulfate) and concentrated to give a white solid which was purified by column chromatography with a gradient of iso-hexane to 80% ethylacetate/iso-hexane to give 3-(1-Oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide as a white solid (190 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.10 (s, 3H), 2.85 (m, 1H), 6.75 (d, 1H), 7.34 (d, 1H), 7.49 (d, 1H), 7.58 (m, 1H), 7.75-7.82 (m, 3H), 7.88 (d, 1H), 8.26 (d, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 319.

reactant | 3-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide | 385 mg | O=C1N(C(CC2=CC=CC=C12)=O)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H18N2O3
reactant | NaBH4 | 48 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
solvent | methylene chloride | 19 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-Oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide | 190 mg | O=C1N(C=CC2=CC=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H18N2O2
